US08026234B2
4-Amino-2-fluoro-5-methoxybenzoic acid:
A solution of ethyl 2-fluoro-5-methoxy-4-nitrobenzoic acid (217 mg, 1 mmol), HOAc (cat.) and MeOH (10 mL) was hydrogenated using H-cube hydrogenator. The solution was then concentrated and dried to give the product which can be used for next step without further purification. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.76 (s, 3H) 5.88 (br s, 2H) 6.36 (d, J=16 Hz, 1H) 7.13 (d, J=8 Hz, 1H) 12.32 (br s, 1H).

reactant | ethyl 2-fluoro-5-methoxy-4-nitrobenzoic acid | 1 mmol, 217 mg | C(C)C=1C(=C(C(=O)O)C=C(C1[N+](=O)[O-])OC)F | C10H10FNO5
reactant | HOAc | CC(=O)O | C2H4O2
solvent | MeOH | 10 mL | CO | CH4O
product | 4-Amino-2-fluoro-5-methoxybenzoic acid | NC1=CC(=C(C(=O)O)C=C1OC)F | C8H8FNO3
